US08669234B2
A mixture of 2-[5-(7-bromo-9,10-dihydro-phenanthren-2-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester (246 mg, 0.497 mmol), 2-[6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-benzoimidazol-2-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester (1 eq., 206 mg), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) (5%, 20 mg), tetrakis(triphenylphosphine)palladium (5%, 29 mg) and potassium acetate (2 eq., 137 mg) in 5 mL DME and 1 mL water was heated to 80° C. for 100 minutes. The reaction mixture was cooled and diluted with ethyl acetate and washed with saturated sodium bicarbonate solution. The organic layer dried (MgSO4), concentrated and purified by flash column chromatography (silica gel, 20 to 100% ethyl acetate/hexane) to give 2-(5-{7-[2-(1-Boc-pyrrolidin-2-yl)-3H-benzoimidazol-5-yl]-9,10-dihydro-phenanthren-2-yl]-1H-imidazol-2-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester (220 mg, yield 63%). LCMS-ESI−: calc'd for C42H48N6O4: 700.87. Found: 701.1 (M+H+).

reactant | 2-[5-(7-bromo-9,10-dihydro-phenanthren-2-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.497 mmol, 246 mg | C(C)(C)(C)OC(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=2CCC3=CC(=CC=C3C2C=C1)Br | C26H28BrN3O2
reactant | 2-[6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-benzoimidazol-2-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 206 mg, 1 eq. | C(C)(C)(C)OC(=O)N1C(CCC1)C1=NC2=C(N1)C=C(C=C2)B2OC(C(O2)(C)C)(C)C | C22H32BN3O4
reactant | potassium acetate | 137 mg, 2 eq. | C(C)(=O)[O-].[K+]
solvent | DME | 5 mL | COCCOC | C4H10O2
solvent | water | 1 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 20 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | tetrakis(triphenylphosphine)palladium | 29 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(5-{7-[2-(1-Boc-pyrrolidin-2-yl)-3H-benzoimidazol-5-yl]-9,10-dihydro-phenanthren-2-yl]-1H-imidazol-2-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 220 mg, yield 63% | C(C)(C)(C)OC(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=2CCC3=CC(=CC=C3C2C=C1)C1=CC2=C(N=C(N2)C2N(CCC2)C(=O)OC(C)(C)C)C=C1 | C42H48N6O4
